US04256736
(1) Boc-Gly-Gly-Phe-Met-Thr-Ser-Glu(OtBu)-Lys(Boc)-OMe
2.4 g Boc-Gly-Gly-Phe-Met-OH, A(4), and 3.15 g H-Thr-Ser-Glu(OtBu)-Lys(Boc)-OMe, B(3), are coupled with the aid of 2 eq HOBt and 1 eq DCCI in the way described in B(1).

reactant | Boc-Gly-Gly-Phe-Met-OH | 2.4 g | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)O)C(=O)OC(C)(C)C | C23H34N4O7S
reactant | H-Thr-Ser-Glu(OtBu)-Lys(Boc)-OMe | 3.15 g | N[C@@H]([C@H](O)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC | C28H51N5O11
reactant | HOBt | 2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 1 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
product | Boc-Gly-Gly-Phe-Met-Thr-Ser-Glu(OtBu)-Lys(Boc)-OMe | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCSC)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)OC)C(=O)OC(C)(C)C | C51H83N9O17S
